US04459422
Preparation of (E)-6-[2-(2,4-Dichloro-6-(phenylmethoxy)phenyl)ethenyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one
Methyl acetoacetate (9.56 g, 82.3 mmole) was added dropwise to a stirred suspension of sodium hydride (50% oil suspension) (3.95 g, 82.3 mmole) in anhydrous tetrahydrofuran at 0° C. under a nitrogen atmosphere. The resulting solution was stirred 15 minutes at 0° C. and then treated with a 1.6M solution (51.5 ml, 82.3 mmole) of n-butyllithium in hexane over 5 minutes. The resulting yellow solution was stirred 15 minutes at 0° C. and then treated with a solution of (E)-2,4-dichloro-6-phenylmethoxycinnamaldehyde (25.3 g, 82.3 mmole) in anhydrous tetrahydrofuran (150 ml). The resulting orange solution was stirred 15 minutes at 0° C. and then quenched by dropwise addition of 12N hydrochloric acid (ca. 20 ml). The reaction mixture was diluted with water (100 ml) and extracted with ether (3×300 ml). The organic extracts were combined, washed with brine (3×100 ml), dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuo leaving the title compound as a yellow oil (34.8 g, 100%): pmr (CDCl3) δ2.75 (2H, d), 3.45 (2H, s), 3.72 (3H, s), 4.71 (H, m), 5.50 (2H, s), 7.37 (5H, s).

reactant | Methyl acetoacetate | 82.3 mmole, 9.56 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydride | 82.3 mmole, 3.95 g | [H-].[Na+]
reactant | n-butyllithium | C(CCC)[Li]
reactant | (E)-2,4-dichloro-6-phenylmethoxycinnamaldehyde | 82.3 mmole, 25.3 g | ClC1=C(/C=C/C=O)C(=CC(=C1)Cl)OCC1=CC=CC=C1 | C16H12Cl2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (E)-6-[2-(2,4-Dichloro-6-(phenylmethoxy)phenyl)ethenyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | 34.8 g, 100% | ClC1=C(C(=CC(=C1)Cl)OCC1=CC=CC=C1)/C=C/C1CC(CC(O1)=O)O | C20H18Cl2O4
